US07244730B2
(Step 6) 1-[5-Bromo-3-(dimethylamino)-2-methoxyphenyl]-1-ethanone
A mixture of 1-(3-amino-5-bromo-2-methoxyphenyl)-1-ethanone (12.8 g), iodomethane (60 mL), potassium carbonate (14.4 g) and N,N-dimethylformamide (200 mL) was stirred at 60 to 70° C. for 2 hours. Water was added to the mixture, extraction was performed with ethyl acetate, and the organic layer was washed with brine and then dried over anhydrous magnesium sulfate. After distilling off the solvent under reduced pressure, the residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to yield the title compound (9.6 g) as a yellow oil.

reactant | 1-(3-amino-5-bromo-2-methoxyphenyl)-1-ethanone | 12.8 g | NC=1C(=C(C=C(C1)Br)C(C)=O)OC | C9H10BrNO2
reactant | iodomethane | 60 mL | IC | CH3I
reactant | potassium carbonate | 14.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 1-[5-Bromo-3-(dimethylamino)-2-methoxyphenyl]-1-ethanone | 9.6 g | BrC=1C=C(C(=C(C1)C(C)=O)OC)N(C)C | C11H14BrNO2
